US07662980B2
In accordance with the third aspect of the present invention, a process of producing docetaxel trihydrate is provided. The process comprises a) combining anhydrous docetaxel, and acetonitrile; b) heating the mixture of step a) to about 30-60° C.; c) adding water to the mixture of the heated mixture of step d); cooling the mixture of c) to about 10-30° C. to obtain a slurry; and e) filtering, washing, and drying the slurry of step d) to obtain docetaxel trihydrate.

reactant | docetaxel | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)OC(C)(C)C)O)O)OC(=O)C=6C=CC=CC6)(CO4)OC(=O)C)O)C)O | C43H53NO14
reactant | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | docetaxel trihydrate | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C5=CC=CC=C5)NC(=O)OC(C)(C)C)O)O)OC(=O)C6=CC=CC=C6)(CO4)OC(=O)C)O)C)O.O.O.O | InChI=1S/C43H53NO14.3H2O/c1-22-26(55-37(51)32(48)30(24-15-11-9-12-16-24)44-38(52)58-39(3,4)5)20-43(53)35(56-36(50)25-17-13-10-14-18-25)33-41(8,34(49)31(47)29(22)40(43,6)7)27(46)19-28-42(33,21-54-28)57-23(2)45;;;/h9-18,26-28,30-33,35,46-48,53H,19-21H2,1-8H3,(H,44,52);3*1H2/t26-,27-,28+,30-,31+,32+,33-,35-,41+,42-,43-;;;/m0.../s1
